US03947470
A solution of 27.2 g. (0.14 mol.) of 3,5-diethyl-4-hydroxybenzoic acid in 200 ml. of methanol containing 2 ml. of sulfuric acid is refluxed for 12 hours. After cooling, excess methanol is evaporated, water is added to the residue and it is made basic with 10% aqueous sodium hydroxide. The precipitate is collected, washed with water and dried in vacuo to give 3,5-diethyl-4-hydroxybenzoic acid methyl ester.

reactant | 3,5-diethyl-4-hydroxybenzoic acid | 0.14 mol | C(C)C=1C=C(C(=O)O)C=C(C1O)CC | C11H14O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 2 ml | CO | CH4O
product | 3,5-diethyl-4-hydroxybenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)CC)O)CC)=O | C12H16O3
